*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************
Vs 1 2 0 sin(0 200 50 0 0 90)

D1 1 3 Default
D2 2 3 Default
D3 0 1 Default
D4 0 2 Default

R1 3 0 420k
C 3 0 420u


R2 3 4 390
Dp1 4 0 Default_n




.model Default D
.model Default_n D (n=18)
.op
.end


.measure tran yavg AVG v(4) from=0.2 to=0.4
.measure tran ymax MAX v(4) from=0.2 to=0.4
.measure tran ymin MIN v(4) from=0.2 to=0.4

.control

******************************************
* analise no tempo
tran 1e-5 0.4 0.2

plot  v(1)-v(2) v(4) 

******************************************
hardcopy vospice100.ps v(1)-v(2) v(4) 


.endc
